US04571345
The crude product from Part B (30 g) was dissolved in pyridine (150 ml), the solution cooled to 0° C. and treated (dropwise) with thionyl chloride (20 ml, 0.28 mole), maintaining a temperature of <5° C. The reaction mixture was stirred overnight, filtered and ether and water added. The phases were separated and the organic phase washed with water (2×200 ml) and dried (Na2SO4). The solvent was evaporated under reduced pressure to give 1-methylene-2,2,5,5-tetramethylcyclopentane (10.8 g) which was pure by GC.

reactant | thionyl chloride | 0.28 mole, 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 1-methylene-2,2,5,5-tetramethylcyclopentane | 10.8 g | C=C1C(CCC1(C)C)(C)C | C10H18
